US07678795B2
3-o-Tolyl-6,7,8,9-tetrahydro-5H-cyclohepta[c]pyridazine
light yellow solid. MS (EI): 238.2 (M+). Prepared from cycloheptane-1,2-dione, (2-Oxo-2-o-tolyl-ethyl)-phosphonic acid dimethyl ester, hydrazine monohydrate.

reactant | cycloheptane-1,2-dione | C1(C(CCCCC1)=O)=O | C7H10O2
reactant | (2-Oxo-2-o-tolyl-ethyl)-phosphonic acid dimethyl ester | COP(OC)(=O)CC(C1=C(C=CC=C1)C)=O | C11H15O4P
reactant | hydrazine monohydrate | O.NN
product | 3-o-Tolyl-6,7,8,9-tetrahydro-5H-cyclohepta[c]pyridazine | C1(=C(C=CC=C1)C1=CC2=C(N=N1)CCCCC2)C | C16H18N2
